US05107026
Preparation of 3-[(4-Fluorophenyl)ethynyl]aniline
A multinecked flask as described in Example 1 was charged with 50.0 g (0.28 mol) of p-bromofluorobenzene, 200 ml of dried, degassed triethylamine, 35.0 g (0.30 mol) of 3-aminophenylacetylene, 0.23 g (0.29 mmol) of bis(triphenyl phosphine) palladium II chloride, 1.03 g (3.92 mmol) of triphenylphosphine, and 0.1 g (0.52 mmol) of cuprous iodide. The reaction mixture was heated at 65° C. for 48 hours at which point gas chromatography showed the reaction to be complete. The mixture was cooled to room temperature and diluted with 200 ml of toluene. The toluene/triethylamine solution was decanted and concentrated on the rotary evaporator to give 75 g (0.27 mol, 96% yield) of the product as a bright yellow solid.

reactant | p-bromofluorobenzene | 0.28 mol, 50.0 g | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 3-aminophenylacetylene | 0.30 mol, 35.0 g | NC=1C=C(C=CC1)C#C | C8H7N
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
catalyst | bis(triphenylphosphine) palladium | 0.29 mmol, 0.23 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | triphenylphosphine | 3.92 mmol, 1.03 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 3-[(4-Fluorophenyl)ethynyl]aniline | 0.27 mol, 75 g, 96% yield | FC1=CC=C(C=C1)C#CC=1C=C(N)C=CC1 | C14H10FN
